### PR TITLE
[Merged by Bors] - feat: port Topology.Category.Top.Limits.Pullbacks

### PR DESCRIPTION
**Pull request by mattrobball**
---

- [x] depends on: #3709

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#3709
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#3709~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Topology/Category/Top/Limits/Pullbacks.lean [hunk 1]
```diff
@@ -109,33 +124,36 @@ theorem pullbackIsoProdSubtype_inv_snd_apply (f : X ⟶ Z) (g : Y ⟶ Z)
...
 #align Top.pullback_iso_prod_subtype_hom_fst TopCat.pullbackIsoProdSubtype_hom_fst
 
 theorem pullbackIsoProdSubtype_hom_snd (f : X ⟶ Z) (g : Y ⟶ Z) :
-    (pullbackIsoProdSubtype f g).Hom ≫ pullbackSnd f g = pullback.snd := by
-  rw [← iso.eq_inv_comp, pullback_iso_prod_subtype_inv_snd]
+    (pullbackIsoProdSubtype f g).hom ≫ pullbackSnd f g = pullback.snd := by
+  rw [← Iso.eq_inv_comp, pullbackIsoProdSubtype_inv_snd]
 #align Top.pullback_iso_prod_subtype_hom_snd TopCat.pullbackIsoProdSubtype_hom_snd
 
+-- Porting note: why do I need to tell Lean to coerce pullback to a type
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Top/Limits/Pullbacks.lean:136]: Maybe this will become easier after #3900 ...

File: Mathlib/Topology/Category/Top/Limits/Pullbacks.lean [hunk 2]
```diff
@@ -370,43 +390,147 @@ theorem pullback_fst_image_snd_preimage (f : X ⟶ Z) (g : Y ⟶ Z) (U : Set Y)
...
 
-theorem coinduced_of_isColimit {F : J ⥤ TopCat.{max v u}} (c : Cocone F) (hc : IsColimit c) :
-    c.pt.TopologicalSpace = ⨆ j, (F.obj j).TopologicalSpace.coinduced (c.ι.app j) := by
-  let homeo := homeo_of_iso (hc.cocone_point_unique_up_to_iso (colimit_cocone_is_colimit F))
+/-- The binary coproduct cofan in `TopCat`. -/
+protected def binaryCofan (X Y : TopCat.{u}) : BinaryCofan X Y :=
+  BinaryCofan.mk (⟨Sum.inl, by continuity⟩ : X ⟶ TopCat.of (Sum X Y)) ⟨Sum.inr, by continuity⟩
+#align Top.binary_cofan TopCat.binaryCofan
+
+/-- The constructed binary coproduct cofan in `TopCat` is the coproduct. -/
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Top/Limits/Pullbacks.lean:405]: Are the next 100 lines new? Or did this move in ml3 during the porting of this file? I don't see it when comparing to the mathport output that this port started from...

Comment (mattrobball) [reply Mathlib/Topology/Category/Top/Limits/Pullbacks.lean]: Ah. These should be at the end of `Products.lean`. I've moved them back.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by ChrisHughes24** [comment]
There was a failure in this file.

bors r-

**Comment by mattrobball** [comment]
Conflict with the name of `ConcreteCategory.forget` from #3900

**Comment by ChrisHughes24** [comment]
bors merge
